US06579872B1
N-[5-(3-fluoro-5-morpholinobenzamido)-2-methylphenyl]-4-diethylaminomethylbenzamide
A mixture of N-[5-(3,5-difluorobenzamido)-2-methylphenyl]-4-diethylaminomethylbenzamide (0.069 g) and morpholine (3 ml) was stirred and heated to 100° C. for 6 days. The mixture was cooled to ambient temperature and poured into water. The resultant solid was isolated, washed in turn with water and diethyl ether and dried under vacuum at 40° C. There was thus obtained the title compound (0.033 g); NMR Spectrum: (DMSOd6) 0.98 (t, 6H), 2.2 (s, 3H), 2.46-2.49 (m, 4H), 3.20-3.24 (m, 4H), 3.58 (s, 2H), 3.72-3.75 (m, 4H), 6.95 (d, 1H), 7.14 (d, 1H), 7.21 (d, 1H), 7.3 (s, 1H), 7.45 (s, 2H), 7.58 (d, 1H), 7.78 (s, 1H), 7.91 (d, 2H), 9.82 (s, 1H), 10.15 (s, 1H); Mass Spectrum: M+H+519.

reactant | N-[5-(3,5-difluorobenzamido)-2-methylphenyl]-4-diethylaminomethylbenzamide | 0.069 g | FC=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC=C(C=C2)CN(CC)CC)=O)C)C=C(C1)F | C26H27F2N3O2
reactant | morpholine | 3 ml | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | N-[5-(3-fluoro-5-morpholinobenzamido)-2-methylphenyl]-4-diethylaminomethylbenzamide | 0.033 g | FC=1C=C(C(=O)NC=2C=CC(=C(C2)NC(C2=CC=C(C=C2)CN(CC)CC)=O)C)C=C(C1)N1CCOCC1 | C30H35FN4O3
